US05376684
A solution of 2.0 g of 3-chloro-2(S)-hydroxy-propyl-(cyclohex-3-enyl)-phosphinic acid ethyl ester in 40 ml of ethanol is placed in an autoclave. 10.0 g of ammonia are introduced under pressure and the mixture is left to stand at room temperature for 72 hours, concentrated to dryness by evaporation, chromatographed on silica gel, stirred at 0° with ethyl acetate/diethyl ether and filtered with suction, yielding 3-amino-2(S)-hydroxy-propyl-(cyclohex-3-enyl)-phosphinic acid ethyl ester, [α]20D =-5.2±0.9 (c=1.07 in methanol).

reactant | 3-chloro-2(S)-hydroxy-propyl-(cyclohex-3-enyl)-phosphinic acid ethyl ester | 2.0 g | C(C)OP(=O)(C1CC=CCC1)C[C@@H](CCl)O | C11H20ClO3P
reactant | ammonia | 10.0 g | N | H3N
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-amino-2(S)-hydroxy-propyl-(cyclohex-3-enyl)-phosphinic acid ethyl ester | C(C)OP(=O)(C1CC=CCC1)C[C@H](CN)O | C11H22NO3P
